US08835472B2
2-(4-Iodophenyl)-1-methoxymethyl-ethylamine
A mixture of 12.0 g (43.3 mmol) 2-amino-3-(4-iodophenyl)-propan-1-ol (I41) and 350 mL THF is cooled down to 0° C. 3.81 g (95 mmol) NAH (60% in min. oil) are carefully added and the mixture is stirred at 0° C. for 30 min. 3.25 mL (52.0 mmol) iodomethane are added and cooling is removed. The reaction mixture is stirred at r.t. for 1 h. The mixture is poured onto water and extracted with EtOAc (2×). The combined organic layers are washed with brine, dried with Na2SO4 and the solvent is removed in vacuo. The compound is used without further purification.

reactant | 2-amino-3-(4-iodophenyl)-propan-1-ol | 43.3 mmol, 12.0 g | NC(CO)CC1=CC=C(C=C1)I | C9H12INO
reactant | iodomethane | 52.0 mmol, 3.25 mL | IC | CH3I
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 2-(4-Iodophenyl)-1-methoxymethyl-ethylamine | IC1=CC=C(C=C1)CC(COC)N | C10H14INO
